US07432281B2
6-(3,3-Dimethylbut-1-ynyl)nicotinic acid
6-Chloronicotinic acid methyl ester (500 mg; 2.93 mmol) was suspended in 1,4-dioxane (3 ml) in a 5 ml reaction vial. To the vessel was added dichlorobis(triphenylphosphine)palladium(II) (70 mg; 3 mol %), copper iodide (12 mg), N,N-diisopropylethylamine (0.63 ml; 3.5 mmol) and 3,3-dimethylbut-1-yne (0.44 ml; 3.5 mmol). The vessel was sealed and the mixture was heated at 80° C. for 24 hrs. The solvents were evaporated to dryness and 20 ml of tetrahydrofuran and 20 ml of 10N NaOH was added. The mixture was stirred at room temperature for 30 minutes and the solvent was evaporated. The basic layer was acidified with concentrated HCl and extracted three times with EtOAc. The organic layers were washed with brine and dried over Na2SO4, filtered and evaporated to give the desired product as a brown powder (590 mg; 99%).

reactant | 6-Chloronicotinic acid methyl ester | 2.93 mmol, 500 mg | COC(C1=CN=C(C=C1)Cl)=O | C7H6ClNO2
reactant | N,N-diisopropylethylamine | 3.5 mmol, 0.63 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3,3-dimethylbut-1-yne | 3.5 mmol, 0.44 ml | CC(C#C)(C)C | C6H10
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 12 mg | [Cu](I)I
product | 6-(3,3-Dimethylbut-1-ynyl)nicotinic acid | 590 mg, 99% | CC(C#CC1=NC=C(C(=O)O)C=C1)(C)C | C12H13NO2
